US08703768B2
Step 2: 5-Bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 5-bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid (37 mg, 0.14 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (29 mg, 0.19 mmol) according to the method described in example 64, step 6 after purification by preparative HPLC using an acetonitrile/water gradient as off-white solid (24 mg, 42%).

reactant | 5-bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid | 0.14 mmol, 37 mg | BrC=1C(=NC(=NC1)C1CCC1)C(=O)O | C9H9BrN2O2
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.19 mmol, 29 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 5-Bromo-2-cyclobutyl-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=NC=C1Br)C1CCC1 | C15H17BrN6O2
